US05998433
b) Synthesis of 1-[2-(N-tert-butoxycarbonyl-N-methylaminomethyl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one
1-(2-Formyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one 0.273 g (0.839 mmol), 0.33 g (4.2 mmol) of 40% methylamine in methanol and 2 drops of acetic acid were dissolved in 50 ml of methanol, followed by stirring at room temperature for 0.5 hours. To this solution, 0.11 g (1.7 mmol) of sodium cyanoborohydride was added at room temperature, followed by stirring for 3 days. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting residue was dissolved in 50 ml of dichloromethane; a solution of 0.27 g (1.3 mmol) of di-tert-butyl dicarbonate in 3 ml of dichloromethane was added. After the mixture was stirred at room temperature for 0.5 hours, the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 2/1) to yield the desired product.

reactant | 1-(2-Formyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | 0.839 mmol, 0.273 g | C(=O)C1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C20H23NO3
reactant | methylamine | 4.2 mmol, 0.33 g | CN | CH5N
reactant | sodium cyanoborohydride | 1.7 mmol, 0.11 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.3 mmol, 0.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-[2-(N-tert-butoxycarbonyl-N-methylaminomethyl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one | C(C)(C)(C)OC(=O)N(C)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C26H36N2O4
